US07411053B2
B. Preparation of 1,10-Phenanthroline-5-amine
This compound was synthesized by the reduction of 5-nitro-1,10-phenanthroline. The procedure was manipulated under argon. To a suspension of 5-nitro-1,10-phenanthroline (2.06 g, 9.0 mmol) and 10% Pd/C (0.280 g) in 90 ml of 95% EtOH, hydrazine hydrate (2.0 ml, 42 mmol) was added dropwise. The mixture was heated for 3 h at 70° C. and then filtered hot through a glass-fiber filter to remove the catalyst. The yellow solution was concentrated to 25 ml and left at 4° C. for 24 hours. The precipitate was filtered off, washed with cold Et2O, and dried under vacuum for 24 hours to give 1.425 g of product (81%). 1H-NMR (DMSO-d6): δ=9.08 (m, 1H), 8.71 (m, 2H), 8.06 (m, 1H), 7.75 (q, 1H), 7.52 (q, 1H), 6.90 (s, 1H), 6.17 ppm (d, NH2). 13C-NMR (DMSO-d6): δ=149.3, 146.2, 144.8, 142.7, 140.5, 132.7, 130.8, 123.2, 122.0, 101.8 ppm.

reactant | 5-nitro-1,10-phenanthroline | [N+](=O)([O-])C1=C2C=CC=NC2=C2N=CC=CC2=C1 | C12H7N3O2
reactant | 5-nitro-1,10-phenanthroline | 9.0 mmol, 2.06 g | [N+](=O)([O-])C1=C2C=CC=NC2=C2N=CC=CC2=C1 | C12H7N3O2
reactant | hydrazine hydrate | 42 mmol, 2.0 ml | O.NN
solvent | EtOH | 90 ml | CCO | C2H6O
catalyst | Pd/C | 0.280 g | [Pd] | Pd
product | 1,10-Phenanthroline-5-amine | 1.425 g, 81% | N1=CC=CC=2C(=CC3=CC=CN=C3C12)N | C12H9N3
